US06924300B2
A mixture of 4-(chloromethyl)-5-methyl-2-phenylthiazol (394 mg), methy E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate (500 mg), potassium carbonate (442 mg) and N,N-dimethylormamide (10 ml) was stirred at room temperature for 72 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was subjected to silica gel chromatography to obtain methy E-4-[4-(5-methyl-2-phenyl-4-thiazolylmethoxy) benzyloxyimino]-4-phenylbutyrate (570 mg, yield 71%) as a colorless oil from an ethyl acetate-hexane (1:5, v/v)-eluted fraction.

reactant | 4-(chloromethyl)-5-methyl-2-phenylthiazol | 394 mg | ClCC=1N=C(SC1C)C1=CC=CC=C1 | C11H10ClNS
reactant | methy E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate | 500 mg | OC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C18H19NO4
reactant | potassium carbonate | 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | methy E-4-[4-(5-methyl-2-phenyl-4-thiazolylmethoxy) benzyloxyimino]-4-phenylbutyrate | 570 mg, yield 71% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C29H28N2O4S
